US04960778
STAGE B: 3-Methyl-6-{3-[4-(3-trifluoromethylphenyl)-1-piperazinyl]-1-propenyl}benzoxazolinone
0.015 mole of 3-methyl-6-{3-[4-(3-trifluoromethylphenyl)-1-piperazinyl]-1-hydroxypropyl}benzoxazolinone is dissolved in 47% strength hydrobromic acid in a 250-cm3 flask, and the solution is stirred at room temperature for 2 hours. The precipitate obtained is drained, washed with acetone, suspended in water and alkalinized with sodium hydroxide. The mixture is extracted several times with chloroform, the organic phases are combined and dried over calcium chloride, filtered and evaporated to dryness on a water bath under vacuum and the base is recrystallized in cyclohexane.

reactant | 3-methyl-6-{3-[4-(3-trifluoromethylphenyl)-1-piperazinyl]-1-hydroxypropyl}benzoxazolinone | 0.015 mole | CN1C(OC2=C1C=CC(=C2)C(CCN2CCN(CC2)C2=CC(=CC=C2)C(F)(F)F)O)=O | C22H24F3N3O3
solvent | hydrobromic acid | Br | BrH
product | 3-Methyl-6-{3-[4-(3-trifluoromethylphenyl)-1-piperazinyl]-1-propenyl}benzoxazolinone | CN1C(OC2=C1C=CC(=C2)C=CCN2CCN(CC2)C2=CC(=CC=C2)C(F)(F)F)=O | C22H22F3N3O2
